US07732461B2
(f) 1,1-dimethylethyl {[(cis)-4-hydroxy-1-(phenylmethyl)-3-piperidinyl]methyl}carbamate
(cis)-3-(aminomethyl)-1-(phenylmethyl)-4-piperidinol (4.6 g, 21.1 mmol) was dissolved in chloroform (125 ml) and stirred over sodium bicarbonate (4.5 g, 53.6 mmol). A solution of di-tert-butyl dicarbonate (4.64 g, 21.1 mmol) in chloroform (60 ml) was then added over 0.5 h and the reaction mixture stirred at room temperature. Water was added and the two phases separated. The aqueous phase was re-extracted with 9:1 dichloromethane:methanol mixture. The combined organic fractions were dried and the solvent was removed under reduced pressure. The residue was subjected to column chromatography on silica gel using a methanol and dichloromethane gradient (0-10% methanol in dichloromethane). This provided the desired compound (5 g, 75%).

reactant | (cis)-3-(aminomethyl)-1-(phenylmethyl)-4-piperidinol | 21.1 mmol, 4.6 g | NC[C@@H]1CN(CC[C@@H]1O)CC1=CC=CC=C1 | C13H20N2O
reactant | sodium bicarbonate | 53.6 mmol, 4.5 g | C([O-])(O)=O.[Na+]
reactant | di-tert-butyl dicarbonate | 21.1 mmol, 4.64 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | Water | O | H2O
solvent | chloroform | 125 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 60 ml | C(Cl)(Cl)Cl | CHCl3
product | 1,1-dimethylethyl {[(cis)-4-hydroxy-1-(phenylmethyl)-3-piperidinyl]methyl}carbamate | 5 g, 75% | O[C@@H]1[C@@H](CN(CC1)CC1=CC=CC=C1)CNC(OC(C)(C)C)=O | C18H28N2O3
